US09108944B2
m-CPBA (64 mg, 0.37 mmol) was added to a cooled (0° C.) solution of 4-((4,4,5,5,5-pentafluoropentyl)thio)butan-1-ol (76 mg, 0.28 mmol) in DCM (3 mL) and it was stirred at 0° C. for 30 min. The reaction mixture was warmed to room temperature and was partitioned between a saturated solution of sodium bicarbonate and DCM. The organic layer was dried over sodium sulfate, and evaporated to dryness. The residue was purified by column chromatography on silica gel eluting with 0 to 10% MeOH/DCM to afford 52 mg of 4-((4,4,5,5,5-pentafluoropentyl)sulfinyl)butan-1-ol as a white solid.

reactant | m-CPBA | 0.37 mmol, 64 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 4-((4,4,5,5,5-pentafluoropentyl)thio)butan-1-ol | 0.28 mmol, 76 mg | FC(CCCSCCCCO)(C(F)(F)F)F | C9H15F5OS
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-((4,4,5,5,5-pentafluoropentyl)sulfinyl)butan-1-ol | 52 mg | FC(CCCS(=O)CCCCO)(C(F)(F)F)F | C9H15F5O2S
